US07276516B2
4-(3-Chloro-indazole-1-sulfonyl)-N-(4-fluoro-benzyl)-benzamide
Dissolve 3-chloro-1H-indazole (120 mg, 0.79 mmol) and 4-(4-fluoro-benzylcarbamoyl)-benzenesulfonyl chloride (114 mg, 0.35 mmol) in CH2Cl2 (2.0 mL) and treat with Et3N (50 L, 0.36 mmol). Stir the solution for 1 h at RT, then dilute with additional CH2Cl2 (20.0 mL) and wash with satd aq. NaHCO3 (15 mL). Dry, filter, and concentrate the organic phase and purify the crude material by flash chromatography (100% hexanes to 50% EtOAc/hexanes linear gradient) to give the title compound (129 mg, 83%) as a white foam. MS (ES+) 443.9 (M+1)+, (ES−) 442.0 (M−1)−. 1H NMR (400 MHz, CDCl3): δ 8.17 (d, 1H, J=8.3), 8.03 (d, 2H, J=8.2), 7.83 (d, 2H, J=8.9), 7.64 (m, 2H), 7.41 (t, 1H, J=7.4), 7.27 (m, 2H), 7.01 (t, 2H, J=8.9), 6.31 (br s, 1H), 4.57 (d, 2H, J=5.9).

reactant | 3-chloro-1H-indazole | 0.79 mmol, 120 mg | ClC1=NNC2=CC=CC=C12 | C7H5ClN2
reactant | 4-(4-fluoro-benzylcarbamoyl)-benzenesulfonyl chloride | 0.35 mmol, 114 mg | FC1=CC=C(CNC(=O)C2=CC=C(C=C2)S(=O)(=O)Cl)C=C1 | C14H11ClFNO3S
reactant | Et3N | 0.36 mmol, 50 L | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20.0 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-Chloro-indazole-1-sulfonyl)-N-(4-fluoro-benzyl)-benzamide | 129 mg, 83% | ClC1=NN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)NCC2=CC=C(C=C2)F)C=C1 | C21H15ClFN3O3S
